US04065563
5-(4-Nitrophenyl)-3-(2-thienyl)-1,2,4-oxadiazole
To a solution of 2-thiopheneamidoxime (10 g, 0.07 mole) and p-nitrobenzoyl chloride (13 g, 0.07 mole) in 400 ml of dry dioxane, 1 ml of BF3 -ethyl ether is added and the mixture is heated to reflux for 16 hours. Evaporation of the solvent in vacuo gives a dark solid. It is decolorized by treating with Darco (CHCl3). The solvent is concentrated in vacuo and the product is crystallized from ethanol to give 12.5 g (65%) of product, m.p. 169°-171°.

reactant | 2-thiopheneamidoxime | 0.07 mole, 10 g | S1C(=CC=C1)C(N)=NO | C5H6N2OS
reactant | p-nitrobenzoyl chloride | 0.07 mole, 13 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | Darco | C | CH4
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
solvent | BF3 ethyl ether | 1 ml | B(F)(F)F.C(C)OCC
product | 5-(4-Nitrophenyl)-3-(2-thienyl)-1,2,4-oxadiazole | 12.5 g, 65% | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC(=NO1)C=1SC=CC1 | C12H7N3O3S
